### PR TITLE
[WIP] Added missing properties to Data.Rational.Properties

### PR DESCRIPTION
**Pull request by flupe**
I wanted to use rationals but realized most properties were missing, so I went ahead and implemented them. There are still quite a few missing but I'm going there.

I basically follow the same structure as in `Data.Integer.Properties`.

I was wondering whether it was reasonable to do as suggested in #921 and use instance arguments for definitions depending on sign predicates. For now these constraints are implicit, see `*-monoˡ-≤-pos : ∀ r {r>0 : r > 0ℚ} → (_* r) Preserves _≤_ ⟶ _≤_`.

My only issue so far is that I am not very fond of the naming I chose for some of the definitions.
For example, predicate `neg` can be confused with `-_` as some properties over `-_` use "neg" in their name.

If anyone has time to give feedback and suggestions, that would be much appreciated!

-------
I list below the changes:
## Data.Integer.Properties
<details>

- added `+-suc>0 : ∀ {n} → +[1+ n ] > +0`
- added `+≰- : ∀ {m n} → + m ≰ -[1+ n ]`
- added `≯⇒≤ : ∀ {x y} → x ≯ y → x ≤ y`

</details>

## Data.Rational.Unnormalised
<details>

- added `non-neg : ℚᵘ → Set`
- added `neg : ℚᵘ → Set`
- added `pos : ℚᵘ → Set` Set`
- added `non-pos : ℚᵘ → Set`

These are predicates on uninterpreted rationals. Note that they are NOT defined
as `_≥ 0`, `_< 0`, `_> 0`, `_≤ 0` as their definition was chosen to make writing proofs easier.
But they are indeed equivalent to the latter predicates. As suggested by @MatthewDaggitt in #1118 ,
I use predicates to talk about positive and non-negative rationals, rather than making them separate and deal with a bunch of conversions.

- added `ℚᵘ+ : Set`, the set of rationals satisfying `non-neg`.
- added `ℚᵘ*+ : Set`, the set of rationals satisfying `pos`.

Don't think these are very useful, but eh.

- added `mkℚᵘ+ : ∀ (n : ℕ) dm → ℚᵘ`
- added `mkℚᵘ*+ : ∀ (n : ℕ) dm → ℚᵘ`
- added `mkℚᵘ*- : ∀ (n : ℕ) dm → ℚᵘ`

Helpers to create non-neg, pos, and neg rationals.

</details>

## Data.Rational.Unnormalised.Properties
<details>

#### Properties of `mkℚᵘ+`/`mkℚᵘ*+` and `non-neg`/`neg`/`pos`/`non-pos`
- added `non-neg-mkℚᵘ+ : ∀ n dm → non-neg (mkℚᵘ+ n dm)`
- added `pos-mkℚᵘ*+ : ∀ n dm → pos (mkℚᵘ*+ n dm)`
- added `neg-mkℚᵘ*- : ∀ n dm → neg (mkℚᵘ*- n dm)`
- added `↥-non-neg : ∀ {p} (p≥0 : non-neg p) → ↥ p ≡ ℤ.+ ↥+ p≥0`
- added `↥-pos : ∀ {p} (p≥0 : pos p) → ↥ p ≡ +[1+ ↥*+ p≥0 ]`
- added `pos⇒non-neg : pos ⊆ non-neg`
- added `neg⇒non-pos : neg ⊆ non-pos`

#### Properties of `-_`

- added `neg-involutive-≡ : Involutive _≡_ (-_)`
- added `neg-involutive : Involutive _≃_ (-_)`
- added `-‿cong-≡ : Congruent₁ _≡_ (-_)`
- added `neg-mono-<-> : -_ Preserves  _<_ ⟶ _>_`

#### Bundles of `_≤_`
- added `≤-preorder : Preorder 0ℓ 0ℓ 0ℓ`
- added `≤-poset : Poset 0ℓ 0ℓ 0ℓ`
- added `≤-totalOrder : TotalOrder 0ℓ 0ℓ 0ℓ`

#### Properties of `_<_`
- added `drop-*<* : ∀ {p q} → p < q → (↥ p ℤ.* ↧ q) ℤ.< (↥ q ℤ.* ↧ p)`

#### Relationships between `_<_` and `_≤_`

- added `<⇒≤ : _<_ ⇒ _≤_`
- added `>⇒≰ : ∀ {p q} → p > q → p ≰ q`
- added `≰⇒> : ∀ {p q} → p ≰ q → p > q`
- added `≯⇒≤ : ∀ {p q} → p ≯ q → p ≤ q`

#### Relational properties of `_<_`
- added `<-irrefl-≡ : Irreflexive _≡_ _<_`
- added `<-irrefl : Irreflexive _≃_ _<_`
- added `<-asym : Asymmetric _<_`
- added `≤-<-trans : Trans _≤_ _<_ _<_`
- added `<-≤-trans : Trans _<_ _≤_ _<_`
- added `<-trans : Transitive _<_`
- added `<-cmp : Trichotomous _≃_ _<_`
- added `_<?_ : Decidable _<_`
- added `<-irrelevant : Irrelevant _<_`
- added `<-respʳ-≃ : _<_ Respectsʳ _≃_`
- added `<-respˡ-≃ : _<_ Respectsˡ _≃_`
- added `<-resp-≃ : _<_ Respects₂ _≃_`

#### Structures and bundles of `_<_`
- added `<-isStrictPartialOrder-≡ : IsStrictPartialOrder _≡_ _<_`
- added `<-isStrictPartialOrder : IsStrictPartialOrder _≃_ _<_`
- added `<-isStrictTotalOrder : IsStrictTotalOrder _≃_ _<_`
- added `<-strictPartialOrder-≡ : StrictPartialOrder 0ℓ 0ℓ 0ℓ`
- added `<-strictPartialOrder : StrictPartialOrder 0ℓ 0ℓ 0ℓ`
- added `<-strictTotalOrder : StrictTotalOrder 0ℓ 0ℓ 0ℓ`

------

- added module `≤-Reasoning`

#### Properties of `↥_/↧_`

- added `mkℚᵘ≥0⇒↥≥0 : ∀ {n dm} → mkℚᵘ n dm ≥ 0ℚᵘ → n ℤ.≥ 0ℤ`
- added `mkℚᵘ>0⇒↥>0 : ∀ {n dm} → mkℚᵘ n dm > 0ℚᵘ → n ℤ.> 0ℤ`

#### Properties of pos/non-pos/neg/non-neg and `_≤_`/`_<_`
Conversions between predicates pos/non-pos/etc and their counterparts `_ <0`/etc.

- added `mkℚᵘ*+>0 : ∀ n dm → mkℚᵘ*+ n dm > 0ℚᵘ`
- added `mkℚᵘ*-<0 : ∀ n dm → mkℚᵘ*- n dm < 0ℚᵘ`
- added `mkℚᵘ+≥0 : ∀ n dm → mkℚᵘ+ n dm ≥ 0ℚᵘ`
- added `pos⇒>0 : pos ⊆ (_> 0ℚᵘ)`
- added `≥0⇒non-neg :(_≥ 0ℚᵘ) ⊆ non-neg`
- added `>0⇒pos : (_> 0ℚᵘ) ⊆ pos`
- added `non-neg⇒≥0 : non-neg ⊆ (_≥ 0ℚᵘ)`
- added `neg⇒≱0 : neg ⊆ (_≱ 0ℚᵘ)`
- added `neg⇒<0 : neg ⊆ (_< 0ℚᵘ)`
- added `neg<pos : ∀ {p q} (p<0 : neg p) (q>0 : pos q) → p < q`

#### Properties of `_+_` and `-_`

- added `neg-distrib-+ : ∀ p q → - (p + q) ≡ (- p) + (- q)`

#### Properties of `_+_` and `_≤_`

- added `+-monoʳ-≤ : ∀ r → (r +_) Preserves _≤_ ⟶ _≤_`
- added `+-monoˡ-≤ : ∀ r → (_+ r) Preserves _≤_ ⟶ _≤_`
- added `+-mono-≤ : _+_ Preserves₂ _≤_ ⟶ _≤_ ⟶ _≤_`
- added `≤-steps : ∀ {p q r} → non-neg r → p ≤ q → p ≤ r + q`
- added `p≤p+q : ∀ {p q} → non-neg q → p ≤ p + q`
- added `p≤q+p : ∀ {p} → non-neg p → ∀ {q} → q ≤ p + q`

#### Properties of `_+_` and `_<_`

- added `+-monoʳ-< : ∀ r → (r +_) Preserves _<_ ⟶ _<_`
- added `+-monoˡ-< : ∀ r → (_+ r) Preserves _<_ ⟶ _<_`
- added `+-mono-< : _+_ Preserves₂ _<_ ⟶ _<_ ⟶ _<_`
- added `+-mono-≤-< : _+_ Preserves₂ _≤_ ⟶ _<_ ⟶ _<_`
- added `+-mono-<-≤ : _+_ Preserves₂ _<_ ⟶ _≤_ ⟶ _<_`

#### Properties of `_-_`

- added `+-minus-telescope : ∀ p q r → (p - q) + (q - r) ≃ p - r`
- added `p≃q⇒p-q≃0 : ∀ p q → p ≃ q → p - q ≃ 0ℚᵘ`
- added `p-q≃0⇒p≃q : ∀ p q → p - q ≃ 0ℚᵘ → p ≃ q`
- added `neg-mono-≤-≥ : -_ Preserves _≤_ ⟶ _≥_`
- added `p≤q⇒p-q≤0 : ∀ {p q} → p ≤ q → p - q ≤ 0ℚᵘ`
- added `p-q≤0⇒p≤q : ∀ {p q} → p - q ≤ 0ℚᵘ → p ≤ q`
- added `p≤q⇒0≤q-p : ∀ {p q} → p ≤ q → 0ℚᵘ ≤ q - p`
- added `0≤q-p⇒p≤q : ∀ {p q} → 0ℚᵘ ≤ q - p → p ≤ q`

#### Properties of `_*_` and `-_`

- added `neg-distribˡ-* : ∀ p q → - (p * q) ≃ - p * q`
- added `neg-distribʳ-* : ∀ p q → - (p * q) ≃ p * - q`

#### Properties of `_*_` and `_≤_`

- added `*-cancelʳ-≤-pos : ∀ {r} → pos r → ∀ {p q} → p * r ≤ q * r → p ≤ q`
- added `*-cancelˡ-≤-pos : ∀ {r} (r>0 : pos r) {p q} → r * p ≤ r * q → p ≤ q`
- added `*-monoˡ-≤-non-neg : ∀ {r} (r≥0 : non-neg r) → (_* r) Preserves _≤_ ⟶ _≤_`
- added `*-monoʳ-≤-non-neg : ∀ {r} (r≥0 : non-neg r) → (r *_) Preserves _≤_ ⟶ _≤_`
- added `*-monoʳ-≤-pos : ∀ {r} (r>0 : pos r) → (r *_) Preserves _≤_ ⟶ _≤_`
- added `*-monoˡ-≤-pos : ∀ {r} (r>0 : pos r) → (_* r) Preserves _≤_ ⟶ _≤_`

#### Properties of `_*_` and `_<_`

- added `*-monoˡ-<-pos : ∀ {r} (r>0 : pos r) → (_* r) Preserves _<_ ⟶ _<_`
- added `*-monoʳ-<-pos : ∀ {r} (r>0 : pos r) → (r *_) Preserves _<_ ⟶ _<_`
- added `*-cancelˡ-<-non-neg : ∀ {r} (r≥0 : non-neg r) {p q} → r * p < r * q → p < q`
- added `*-cancelʳ-<-non-neg : ∀ {r} (r≥0 : non-neg r) {p q} → p * r < q * r → p < q`

</details>

## Data.Rational.Base
<details>

- added `mkℚ*+ : ∀ n d → .{d≢0 : d ≢0} → .(Coprime (suc n) d) → ℚ` to make positive rationals.

</details>

## Data.Rational.Properties

<details>

Here I mostly just lift everything from `Unnormalised.Properties`. This builds upon the work of #1072 .

#### mkℚ*+

- added `mkℚ*+-cong : ∀ {n₁ n₂ d₁ d₂} d₁≢0 d₂≢0
             .{c₁ : Coprime (suc n₁) d₁}
             .{c₂ : Coprime (suc n₂) d₂} →
             n₁ ≡ n₂ → d₁ ≡ d₂ →
             mkℚ*+ n₁ d₁ {d₁≢0} c₁ ≡ mkℚ*+ n₂ d₂ {d₂≢0} c₂`
- added `↥-mkℚ*+ : ∀ n d {d≢0} .{c : Coprime (suc n) d} → ↥ (mkℚ*+ n d {d≢0} c) ≡ + (suc n)`
- added `↧-mkℚ*+ : ∀ n d {d≢0} .{c : Coprime (suc n) d} → ↧ (mkℚ*+ n d {d≢0} c) ≡ + d`

#### Properties of toℚᵘ and `_<_`

- added `toℚᵘ-mono-< : ∀ {p q} → p < q → toℚᵘ p <ᵘ toℚᵘ q`
- added `toℚᵘ-cancel-< : ∀ {p q} → toℚᵘ p <ᵘ toℚᵘ q → p < q`
- added `toℚᵘ-isOrderHomomorphism-< : IsOrderHomomorphism _≡_ _≃ᵘ_ _<_ _<ᵘ_ toℚᵘ`
- added `toℚᵘ-isOrderMonomorphism-< : IsOrderMonomorphism _≡_ _≃ᵘ_ _<_ _<ᵘ_ toℚᵘ`

#### Relationship between other operators

- added `>⇒≰ : ∀ {p q} → p > q → p ≰ q`
- added `≰⇒> : ∀ {p q} → p ≰ q → p > q`
- added `≯⇒≤ : ∀ {p q} → p ≯ q → p ≤ q`

#### Other properties of `_<_`

- added `p≮p : ∀ {p} → p ≮ p`
- added `>-irrefl : Irreflexive _≡_ _>_`

#### Positivity is preserved

- added `pos-toℚᵘ : ∀ {p} → p > 0ℚ → ℚᵘ.pos (toℚᵘ p)`
- added `non-neg-toℚᵘ : ∀ {p} → p ≥ 0ℚ → ℚᵘ.non-neg (toℚᵘ p)`

#### Properties of `_<_` and `-_`

- added `neg-mono-<-> : -_ Preserves _<_ ⟶ _>_`

#### Algebraic properties of `_+_`

I realize while writing this that I somehow deleted `+-assoc`, my bad I will put it right back.

#### Properties of `_+_` and `_≤_`

- added `+-mono-≤ : _+_ Preserves₂ _≤_ ⟶ _≤_ ⟶ _≤_`
- added `+-monoˡ-≤ : ∀ r → (_+ r) Preserves _≤_ ⟶ _≤_`
- added `+-monoʳ-≤ : ∀ r → (_+_ r) Preserves _≤_ ⟶ _≤_`
- added `≤-steps : ∀ {p q} r {r≥0 : r ≥ 0ℚ} → p ≤ q → p ≤ r + q`
- added `p≤p+q : ∀ q {q≥0 : q ≥ 0ℚ} {p} → p ≤ p + q`
- added `p≤q+p : ∀ p {p≥0 : p ≥ 0ℚ} {q} → q ≤ p + q`

#### Properties of `_+_` and `_<_`

- added `+-monoʳ-< : ∀ r → (_+_ r) Preserves _<_ ⟶ _<_`
- added `+-monoˡ-< : ∀ r → (_+ r) Preserves _<_ ⟶ _<_`
- added `+-mono-< : _+_ Preserves₂ _<_ ⟶ _<_ ⟶ _<_`
- added `+-mono-≤-< : _+_ Preserves₂ _≤_ ⟶ _<_ ⟶ _<_`
- added `+-mono-<-≤ : _+_ Preserves₂ _<_ ⟶ _≤_ ⟶ _<_`

#### Algebraic properties of `_*_`

- added `*-zero : Zero 0ℚ _*_`
- added `*-zeroˡ : LeftZero 0ℚ _*_`
- added `*-zeroʳ : RightZero 0ℚ _*_`

#### Properties of `_*_` and `_≤_`

- added `*-cancelʳ-≤-pos : ∀ r {r>0 : r > 0ℚ} → ∀ {p q} → p * r ≤ q * r → p ≤ q`
- added `*-cancelˡ-≤-pos : ∀ r {r>0 : r > 0ℚ} {p q} → r * p ≤ r * q → p ≤ q`
- added `*-monoˡ-≤-non-neg : ∀ r {r≥0 : r ≥ 0ℚ} → (_* r) Preserves _≤_ ⟶ _≤_`
- added `*-monoʳ-≤-non-neg : ∀ r {r≥0 : r ≥ 0ℚ} → (r *_) Preserves _≤_ ⟶ _≤_`
- added `*-monoˡ-≤-pos : ∀ r {r>0 : r > 0ℚ} → (_* r) Preserves _≤_ ⟶ _≤_`
- added `*-monoʳ-≤-pos : ∀ r {r>0 : r > 0ℚ} → (r *_) Preserves _≤_ ⟶ _≤_`

#### Properties of `_*_` and `_<_`

- added `*-monoˡ-<-pos : ∀ r {r>0 : r > 0ℚ} → (_* r) Preserves _<_ ⟶ _<_`
- added `*-monoʳ-<-pos : ∀ r {r>0 : r > 0ℚ} → (r *_) Preserves _<_ ⟶ _<_`
- added `*-cancelʳ-<-non-neg : ∀ r {r≥0 : r ≥ 0ℚ} {p q} → p * r < q * r → p < q`
- added `*-cancelˡ-<-non-neg : ∀ r {r≥0 : r ≥ 0ℚ} {p q} → p * r < q * r → p < q`

#### Structures

- added `+-*-isCommutativeRing : IsCommutativeRing _+_ _*_ -_`
- added `+-*-commutativeRing : CommutativeRing 0ℓ 0ℓ`

</details>

### CODE REVIEW

File: src/Data/Integer/Properties.agda [hunk 1]
```diff
@@ -199,6 +209,8 @@ drop‿-<- (-<- n<m) = n<m
 ≰⇒> { -[1+_] n} {+_ n₁}      i≰j = contradiction -≤+ i≰j
 ≰⇒> { -[1+_] n} { -[1+_] n₁} i≰j = -<- (ℕₚ.≰⇒> (i≰j ∘ -≤-))
 
+≯⇒≤ : ∀ {x y} → x ≯ y → x ≤ y
+
```
Comment (gallais) [inline src/Data/Integer/Properties.agda:213]: I understand the rationale for putting the type signature in this block
however this generate an unnecessary mutual block (and to the reader
not looking at a diff, it looks like a declaration with no definition).

File: src/Data/Rational/Properties.agda [hunk 2]
```diff
@@ -785,23 +876,90 @@ private
...
+------------------------------------------------------------------------
+-- Properties of _*_ and _≤_
+
+*-cancelʳ-≤-pos : ∀ r {r>0 : r > 0ℚ} → ∀ {p q} → p * r ≤ q * r → p ≤ q
+*-cancelʳ-≤-pos r {r>0} {p} {q} p*r≤q*r = toℚᵘ-cancel-≤ $
+  ℚᵘ.*-cancelʳ-≤-pos (pos-toℚᵘ r>0) $ begin
+  toℚᵘ p ℚᵘ.* toℚᵘ r ≈⟨ ℚᵘ.≃-sym (toℚᵘ-homo-* p r) ⟩
+  toℚᵘ (p * r) ≤⟨ toℚᵘ-mono-≤ p*r≤q*r ⟩
+  toℚᵘ (q * r) ≈⟨ toℚᵘ-homo-* q r ⟩
+  toℚᵘ q ℚᵘ.* toℚᵘ r ∎ where open ℚᵘ.≤-Reasoning
```
Comment (gallais) [inline src/Data/Rational/Properties.agda:915]: You forgot to align the reasoning steps here like you have done earlier.

File: src/Data/Rational/Properties.agda [hunk 3]
```diff
@@ -785,23 +876,90 @@ private
...
+*-monoʳ-<-pos r {r>0} {p} {q}
+  rewrite *-comm r p | *-comm r q = *-monoˡ-<-pos r {r>0}
+
+*-cancelʳ-<-non-neg : ∀ r {r≥0 : r ≥ 0ℚ} {p q} → p * r < q * r → p < q
+*-cancelʳ-<-non-neg r {r≥0} {p} {q} p*r<q*r = toℚᵘ-cancel-< $
+  ℚᵘ.*-cancelʳ-<-non-neg (non-neg-toℚᵘ r≥0) $ begin-strict
+  toℚᵘ p ℚᵘ.* toℚᵘ r ≈⟨ ℚᵘ.≃-sym (toℚᵘ-homo-* p r) ⟩
+  toℚᵘ (p * r) <⟨ toℚᵘ-mono-< p*r<q*r ⟩
+  toℚᵘ (q * r) ≈⟨ toℚᵘ-homo-* q r ⟩
+  toℚᵘ q ℚᵘ.* toℚᵘ r ∎ where open ℚᵘ.≤-Reasoning
```
Comment (gallais) [inline src/Data/Rational/Properties.agda:958]: Same here: missing alignment.

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 4]
```diff
@@ -514,6 +940,97 @@ p ≤? q = Dec.map′ *≤* drop-*≤* (↥ p ℤ.* ↧ q ℤ.≤? ↥ q ℤ.* 
 *-distrib-+ : _DistributesOver_ _≃_ _*_ _+_
 *-distrib-+ = *-distribˡ-+ , *-distribʳ-+
 
+------------------------------------------------------------------------
+-- Other properties of _*_ and _≃_/_≡_
+
+-- TODO
```
Comment (gallais) [inline src/Data/Rational/Unnormalised/Properties.agda:946]: TODO

File: src/Data/Integer/Properties.agda [hunk 5]
```diff
@@ -175,12 +176,21 @@ drop‿+<+ (+<+ m<n) = m<n
 drop‿-<- : ∀ {m n} → -[1+ m ] < -[1+ n ] → n ℕ.< m
 drop‿-<- (-<- n<m) = n<m
 
++-suc>0 : ∀ {n} → +[1+ n ] > +0
```
Comment (MatthewDaggitt) [inline src/Data/Integer/Properties.agda:179]: As this doesn't actually involve the `suc` operator for integers, I think this might be better named `+1+n>0`? or `+1+>0`?

File: src/Data/Integer/Properties.agda [hunk 6]
```diff
@@ -14,6 +14,7 @@ module Data.Integer.Properties where
 open import Algebra.Bundles
 import Algebra.Morphism as Morphism
 import Algebra.Properties.AbelianGroup
+open import Data.Empty using (⊥-elim)
```
Comment (MatthewDaggitt) [inline src/Data/Integer/Properties.agda:17]: We tend to try and use `contradiction` from `Relation.Nullary.Negation` rather than `⊥-elim` as it makes the code more readable.

File: src/Data/Rational/Base.agda [hunk 7]
```diff
@@ -64,6 +64,9 @@ open ℚ public using ()
 mkℚ+ : ∀ n d → .{d≢0 : d ≢0} → .(Coprime n d) → ℚ
 mkℚ+ n (suc d) coprime = mkℚ (+ n) d coprime
 
+mkℚ*+ : ∀ n d → .{d≢0 : d ≢0} → .(Coprime (suc n) d) → ℚ
+mkℚ*+ n (suc d) coprime = mkℚ +[1+ n ] d coprime
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Base.agda:68]: I'm probably being slow, but what's the advantage of this over `mkℚ`?

File: src/Data/Rational/Unnormalised.agda [hunk 8]
```diff
@@ -83,9 +86,58 @@ x ≮ y = ¬ (x < y)
 _≯_ : Rel ℚᵘ 0ℓ
 x ≯ y = ¬ (x > y)
 
+------------------------------------------------------------------------
+-- Non-negative and negative rationals
+
+record non-neg (p : ℚᵘ) : Set where
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised.agda:92]: Hmm so I've already had a go at formalizing such predicates in #850 in a compositional manner for all the numeric types. I had some concerns over instance arguments and I'll try remember what they are and update and merge in the PR later this week.

File: src/Data/Rational/Unnormalised.agda [hunk 9]
```diff
@@ -38,7 +41,7 @@ record ℚᵘ : Set where
   denominatorℕ = suc denominator-1
 
   denominator : ℤ
-  denominator = + denominatorℕ
+  denominator = ℤ.+ denominatorℕ
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised.agda:44]: Is there a reason you've needed to add `ℤ.` to all the `+_`?

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 10]
```diff
@@ -514,6 +940,97 @@ p ≤? q = Dec.map′ *≤* drop-*≤* (↥ p ℤ.* ↧ q ℤ.≤? ↥ q ℤ.* 
...
+-- Properties of _*_ and _≤_
+
+private
+  reorder₁ : ∀ a b c d → a ℤ.* b ℤ.* (c ℤ.* d) ≡ a ℤ.* c ℤ.* b ℤ.* d
+  reorder₁ = solve 4 (λ a b c d → a :* b :* (c :* d) := a :* c :* b :* d) refl
+    where open ℤ-solver
+
+  reorder₂ : ∀ a b c d → a ℤ.* b ℤ.* (c ℤ.* d) ≡ a ℤ.* c ℤ.* (b ℤ.* d)
+  reorder₂ = solve 4 (λ a b c d → a :* b :* (c :* d) := a :* c :* (b :* d)) refl
+    where open ℤ-solver
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:969]: I think you can use the new tactic solver in `Data.Integer.Tactic.RingSolver` here to get rid of these private lemmas?

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 11]
```diff
@@ -89,22 +121,60 @@ p ≃? q = Dec.map′ *≡* drop-*≡* (↥ p ℤ.* ↧ q ℤ.≟ ↥ q ℤ.* 
...
+  ℤ.- 1ℤ ℤ.* (↥ p ℤ.* ↧ q)   ≡⟨ cong (λ r → ℤ.- 1ℤ ℤ.* r) p≡q ⟩
+  ℤ.- 1ℤ ℤ.* (↥ q ℤ.* ↧ p)   ≡⟨ sym (ℤ.*-assoc (ℤ.- 1ℤ) (↥ q) (↧ p)) ⟩
+  (ℤ.- 1ℤ ℤ.* ↥ q) ℤ.* ↧ p   ≡˘⟨ cong (ℤ._* ↧ p) (ℤ.neg-distribˡ-* 1ℤ (↥ q)) ⟩
+  ℤ.-(1ℤ ℤ.* ↥ q) ℤ.* ↧ p    ≡⟨ cong (ℤ._* ↧ p) (ℤ.neg-distribʳ-* 1ℤ (↥ q)) ⟩
+  (1ℤ ℤ.* ↥(- q)) ℤ.* ↧ p    ≡⟨ ℤ.*-assoc 1ℤ (ℤ.-(↥ q)) (↧ p) ⟩
+  1ℤ ℤ.* (↥(- q) ℤ.* ↧ p)    ≡⟨ ℤ.*-identityˡ (↥(- q) ℤ.* ↧ p) ⟩
+  ↥(- q) ℤ.* ↧ p ∎) where open ≡-Reasoning
+
+-‿cong-≡ : Congruent₁ _≡_ (-_)
+-‿cong-≡ refl = refl
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:150]: Hmm I'm not sure if we need this or not. It's really just `cong` from `PropositionalEquality` right?

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 12]
```diff
@@ -89,22 +121,60 @@ p ≃? q = Dec.map′ *≡* drop-*≡* (↥ p ℤ.* ↧ q ℤ.≟ ↥ q ℤ.* 
...
+neg-involutive : Involutive _≃_ (-_)
+neg-involutive p rewrite neg-involutive-≡ p = ≃-refl
+
+-‿cong : Congruent₁ _≃_ (-_)
+-‿cong {p} {q} (*≡* p≡q) = *≡* (begin
+  ↥(- p) ℤ.* ↧ q             ≡˘⟨ ℤ.*-identityˡ (ℤ.-(↥ p) ℤ.* ↧ q) ⟩
+  1ℤ ℤ.* (↥(- p) ℤ.* ↧ q)    ≡⟨ sym (ℤ.*-assoc 1ℤ (↥(- p)) (↧ q)) ⟩
+  (1ℤ ℤ.* ℤ.-(↥ p)) ℤ.* ↧ q  ≡˘⟨ cong (ℤ._* ↧ q) (ℤ.neg-distribʳ-* 1ℤ (↥ p)) ⟩
+  ℤ.-(1ℤ ℤ.* ↥ p) ℤ.* ↧ q    ≡⟨ cong (ℤ._* ↧ q) (ℤ.neg-distribˡ-* 1ℤ (↥ p)) ⟩
+  ((ℤ.- 1ℤ) ℤ.* ↥ p) ℤ.* ↧ q ≡⟨ ℤ.*-assoc (ℤ.- 1ℤ) (↥ p) (↧ q) ⟩
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:140]: I think there's a `-1ℤ` constant in `Data.Integer` that can be used here.

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 13]
```diff
@@ -166,11 +236,241 @@ p ≤? q = Dec.map′ *≤* drop-*≤* (↥ p ℤ.* ↧ q ℤ.≤? ↥ q ℤ.* 
...
+<⇒≤ : _<_ ⇒ _≤_
+<⇒≤ (*<* p<q) = *≤* (ℤ.<⇒≤ p<q)
+
+>⇒≰ : ∀ {p q} → p > q → p ≰ q
+>⇒≰ (*<* x>y) = ℤ.>⇒≰ x>y ∘ drop-*≤*
+
+≰⇒> : ∀ {p q} → p ≰ q → p > q
+≰⇒> p≰q = *<* (ℤ.≰⇒> (p≰q ∘ *≤*))
+
+≯⇒≤ : ∀ {p q} → p ≯ q → p ≤ q
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:278]: These three could all be written with `_⇒_` just like the first one?

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 14]
```diff
@@ -313,20 +613,146 @@ p ≤? q = Dec.map′ *≤* drop-*≤* (↥ p ℤ.* ↧ q ℤ.≤? ↥ q ℤ.* 
...
+                    ≡ (↥ r ℤ.* ↧ r) ℤ.* (↧ p ℤ.* ↧ q) ℤ.+ (↧ r ℤ.* ↧ r) ℤ.* (↥ p ℤ.* ↧ q)
+  lemma r p q = solve 5 (λ ↥r ↧r ↧p ↥p ↧q →
+                          (↥r :* ↧p :+ ↥p :* ↧r) :* (↧r :* ↧q) :=
+                          (↥r :* ↧r) :* (↧p :* ↧q) :+ (↧r :* ↧r) :* (↥p :* ↧q))
+                      refl (↥ r) (↧ r) (↧ p) (↥ p) (↧ q)
+    where open ℤ-solver
+
++-monoʳ-≤ : ∀ r → (r +_) Preserves _≤_ ⟶ _≤_
++-monoʳ-≤ r {p} {q} (*≤* x≤y)
+  = let r₂ = ↥ r ℤ.* ↧ r in *≤* $ begin
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:642]: Any chance we could improve the layout of this?

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 15]
```diff
@@ -313,20 +613,146 @@ p ≤? q = Dec.map′ *≤* drop-*≤* (↥ p ℤ.* ↧ q ℤ.≤? ↥ q ℤ.* 
...
+
+p≤q+p : ∀ {p} → non-neg p → ∀ {q} → q ≤ p + q
+p≤q+p {p} p≥0 {q} rewrite +-comm-≡ p q = p≤p+q p≥0
+
+------------------------------------------------------------------------
+-- properties of _+_ and _<_
+
++-monoʳ-< : ∀ r → (r +_) Preserves _<_ ⟶ _<_
++-monoʳ-< r@(mkℚᵘ n dm) {p} {q} (*<* x<y)
+  = let r₂ = n ℤ.* ↧ r in *<* $ begin-strict
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:671]: Same here?

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 16]
```diff
@@ -313,20 +613,146 @@ p ≤? q = Dec.map′ *≤* drop-*≤* (↥ p ℤ.* ↧ q ℤ.≤? ↥ q ℤ.* 
...
+------------------------------------------------------------------------
+-- properties of _-_
+
++-minus-telescope : ∀ p q r → (p - q) + (q - r) ≃ p - r
++-minus-telescope p q r = begin-equality
+  (p - q) + (q - r)   ≈⟨ ≃-sym (+-assoc (p - q) q (- r)) ⟩
+  (p - q) + q - r     ≈⟨ +-cong (+-assoc p (- q) q) (≃-refl {(- r)}) ⟩
+  (p + (- q + q)) - r ≈⟨ +-cong (+-cong (≃-refl {p}) (+-inverseˡ q)) (≃-refl {(- r)}) ⟩
+  (p + 0ℚᵘ) - r       ≈⟨ +-cong (+-identityʳ p) (≃-refl {(- r)}) ⟩
+  p - r ∎ where open ≤-Reasoning
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:701]: Could we align the QED here?

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 17]
```diff
@@ -313,20 +613,146 @@ p ≤? q = Dec.map′ *≤* drop-*≤* (↥ p ℤ.* ↧ q ℤ.≤? ↥ q ℤ.* 
...
++-mono-<-≤ : _+_ Preserves₂ _<_ ⟶ _≤_ ⟶ _<_
++-mono-<-≤ {p} {q} {r} p<q q≤r = <-≤-trans (+-monoˡ-< r p<q) (+-monoʳ-≤ q q≤r)
+
+------------------------------------------------------------------------
+-- properties of _-_
+
++-minus-telescope : ∀ p q r → (p - q) + (q - r) ≃ p - r
++-minus-telescope p q r = begin-equality
+  (p - q) + (q - r)   ≈⟨ ≃-sym (+-assoc (p - q) q (- r)) ⟩
+  (p - q) + q - r     ≈⟨ +-cong (+-assoc p (- q) q) (≃-refl {(- r)}) ⟩
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:698]: It looks like we should have `+-congˡ` and `+-congʳ` proofs which would save us having to add these `refl`s with implicit arguments everywhere!

File: src/Data/Integer/Properties.agda (hunk 1 above)
Comment (flupe) [reply src/Data/Integer/Properties.agda:231]: That's very true and bothered me even while writing this down, anyways I botched the proof, I rewrote it and now definitions are gathered and all clean.

File: src/Data/Rational/Base.agda (hunk 7 above)
Comment (flupe) [reply src/Data/Rational/Base.agda:68]: Nothing really, but the same could be argued for `mkℚ+` defined one line above, so my reasoning was that if the latter is there, we could add other similar shorthands.

File: src/Data/Rational/Unnormalised.agda (hunk 9 above)
Comment (flupe) [reply src/Data/Rational/Unnormalised.agda:46]: Can't remember, I think there used to be conflicts but they're gone so I removed the `ℤ.` again.

File: src/Data/Rational/Unnormalised/Properties.agda (hunk 11 above)
Comment (flupe) [reply src/Data/Rational/Unnormalised/Properties.agda]: Yup, removed the definition.

File: src/Data/Rational/Unnormalised/Properties.agda (hunk 17 above)
Comment (flupe) [reply src/Data/Rational/Unnormalised/Properties.agda:727]: Very true, I realized this right after submitting the PR when writing down proofs using the new properties, so I actually added them before you even made this comment!

**Comment by flupe** [comment]
Thank you both for your reviews! I think I corrected most of your remarks already.

> Is there any chance we could split this up in to 2 stages? One PR for unnormalised rationals and then one for normalised rationals? It's rather a lot of code to go through in one go, and will help get the whole thing merged in quicker.

This seems like a good idea, let me submit a first PR for unnormalised rationals. I think I messed up the git history here while doing a rebase so this will hopefully allow me to clean this mess up.

**Comment by MatthewDaggitt** [comment]
@flupe, I've just updated the pull request for predicates (#850). I'd welcome any feedback you have on the Rational parts. I'll let you know when it's merged in (hopefully a couple of days) and then you can rebase and open the new PR :+1:

**Comment by MatthewDaggitt** [comment]
@flupe I've merged it in. Go wild :smile:

**Comment by MatthewDaggitt** [comment]
Closing and marked as duplicate now that #1218 has been merged in. @flupe we'd definitely welcome the second part of this if you can find the time at some point :+1:
